US06355799B1
Preparation of 3-(4-chloro-6-fluoro-2-hydroxy-3-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (Compound no. 16-6)
An acetonitrile (10 ml) solution of copper (II) sulfate (0.52 g, 3.26 mmol), copper (I) oxide (0.47 g, 3.26 mmol) and copper (II) nitrate hemipentahydrate (0.76 g, 3.26 mmol) was stirred at −30° C., and added with tert-butyl nitrite (0.41 g, 3.97 mmol) and then an acetonitrile (3 ml) solution of 3-(2-amino-4-chloro-6-fluoro-3-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (0.94 g, 2.56 mmol). After stirred for 16 hr (−30° C. to room temperature), the mixture was poured into cold 5% hydrochloric acid (30 ml) and then extracted with ethyl acetate (20 ml×3). The organic phase was washed with brine and dried over Na2SO4. Preparative TLC was used for purification (silica gel plates, 2000 microns, ether). Yield: 0.16 g, 0.44 mmol.

reactant | tert-butyl nitrite | 3.97 mmol, 0.41 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 3-(2-amino-4-chloro-6-fluoro-3-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 2.56 mmol, 0.94 g | NC1=C(C(=CC(=C1OC)Cl)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H10ClF4N3O3
reactant | hydrochloric acid | 30 ml | Cl | ClH
catalyst | copper (II) sulfate | 3.26 mmol, 0.52 g | S(=O)(=O)([O-])[O-].[Cu+2]
catalyst | copper (I) oxide | 3.26 mmol, 0.47 g | [Cu-]=O
catalyst | copper (II) nitrate hemipentahydrate | 3.26 mmol, 0.76 g | O.[N+](=O)([O-])[O-].[Cu+2].O.O.O.O.[N+](=O)([O-])[O-].[Cu+2].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(4-chloro-6-fluoro-2-hydroxy-3-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)O)OC | C13H9ClF4N2O4
